US06521754B2
N-(4-Hydroxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
The title compound was prepared using 2-amino-4-morpholin-4-yl-phenol as described for N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide and obtained as a light brown solid in 14% overall yield, MS: m/e=356(M+H+).

reactant | 2-amino-4-morpholin-4-yl-phenol | NC1=C(C=CC(=C1)N1CCOCC1)O | C10H14N2O2
reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)N2CCOCC2 | C19H19N3O3S
product | N-(4-Hydroxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | OC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)N2CCOCC2 | C18H17N3O3S
